US05476954
0.33 g of sodium hydrogen carbonate is added to a solution, maintained under an argon atmosphere, of 0.8 g of ethyl (2R,3S)-3-amino-2-hydroxy-3-(4-methylphenyl)propionate in 12 cm3 of dichloromethane, and a solution of 0.94 g of di-tert-butyl dicarbonate in 4 cm3 of dichloromethane is then added dropwise at a temperature in the region of 20° C. The solution obtained is stirred for 2 hours 30 minutes at a temperature in the region of 20° C. and then treated with 20 cm3 of distilled water. The aqueous phase is separated after settling has taken place and then reextracted with 20 cm3 of dichloromethane. The organic phases are combined, dried over magnesium sulphate, filtered and then concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After crystallization in cyclohexane, 0.65 g of ethyl (2R,3S)-3-tert-butoxycarbonylamino-2-hydroxy-3-(4-methylphenyl)propionate, melting point 130° C., is thereby obtained.

reactant | sodium hydrogen carbonate | 0.33 g | C(O)([O-])=O.[Na+]
reactant | ethyl (2R,3S)-3-amino-2-hydroxy-3-(4-methylphenyl)propionate | 0.8 g | N[C@H]([C@H](C(=O)OCC)O)C1=CC=C(C=C1)C | C12H17NO3
reactant | di-tert-butyl dicarbonate | 0.94 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 20 cm3 | O | H2O
solvent | dichloromethane | 12 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 4 cm3 | ClCCl | CH2Cl2
product | ethyl (2R,3S)-3-tert-butoxycarbonylamino-2-hydroxy-3-(4-methylphenyl)propionate | 0.65 g | C(C)(C)(C)OC(=O)N[C@H]([C@H](C(=O)OCC)O)C1=CC=C(C=C1)C | C17H25NO5
